simulator lang = spectre 
global 0 
parameters CL=10f wn=400n fingers_cs=1 fingers_inv=1 fingers_load=1 load_cap_ctrl=1 Fs=500M V_cap_control=0 VCTRL=800m VDD=1 wp=2*wn 
include "/home/subhajit/workarea_TSMC_65/tsmcN65_9M_mc_v2.scs" section = TT 
subckt Delay_Unit_Parameterized CN CP EN\<1\> EN\<2\> EN\<3\> EN\<4\> EX\<1\> EX\<2\> EX\<3\> EX\<4\> IN OUT VDD VSS 
M22 ( OUT net366 VSS VSS ) nch_lvt_mac l=60n w=wn*fingers_inv multi=8 nf=fingers_inv sigma=1  
M12 ( EN\<3\> VSS VSS VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=1 nf=fingers_load sigma=1  
M17 ( EN\<3\> net366 EN\<3\> VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=4 nf=fingers_load sigma=1  
M13 ( EN\<2\> VSS EN\<3\> VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=1 nf=fingers_load sigma=1  
M23 ( EN\<2\> net366 EN\<2\> VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=2 nf=fingers_load sigma=1  
M14 ( EN\<1\> VSS EN\<2\> VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=1 nf=fingers_load sigma=1  
M24 ( EN\<1\> net366 EN\<1\> VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=1 nf=fingers_load sigma=1  
M15 ( net369 VSS EN\<1\> VSS ) nch_lvt_mac l=60n w=wn*fingers_load multi=1 nf=fingers_load sigma=1  
M16 ( net366 IN net369 VSS ) nch_lvt_mac l=100n w=wn*fingers_inv multi=12 nf=fingers_inv sigma=1  
M38 ( VSS VSS VSS VSS ) nch_lvt_mac l=100n w=wn*fingers_cs multi=6 nf=fingers_cs sigma=1  
M10 ( OUT net366 VDD VDD ) pch_lvt_mac l=60n w=wp*fingers_inv multi=16 nf=fingers_inv sigma=1  
M6 ( EX\<3\> VDD VDD VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=1 nf=fingers_load sigma=1  
M11 ( EX\<3\> net366 EX\<3\> VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=4 nf=fingers_load sigma=1  
M5 ( EX\<2\> VDD EX\<3\> VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=1 nf=fingers_load sigma=1  
M8 ( EX\<2\> net366 EX\<2\> VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=2 nf=fingers_load sigma=1  
M4 ( EX\<1\> VDD EX\<2\> VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=1 nf=fingers_load sigma=1  
M9 ( EX\<1\> net366 EX\<1\> VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=1 nf=fingers_load sigma=1  
M3 ( net368 VDD EX\<1\> VDD ) pch_lvt_mac l=60n w=wp*fingers_load multi=1 nf=fingers_load sigma=1  
M7 ( net366 IN net368 VDD ) pch_lvt_mac l=100n w=wp*fingers_inv multi=12 nf=fingers_inv sigma=1  
M29 ( net364 VDD VDD VDD ) pch_mac l=100n w=wp*fingers_cs multi=1 nf=fingers_cs sigma=1  
M34 ( net364 EN\<4\> VDD VDD ) pch_mac l=200n w=wp*fingers_cs multi=2 nf=fingers_cs sigma=1  
M33 ( net368 CP net364 VDD ) pch_mac l=100n w=wp*fingers_cs multi=1 nf=fingers_cs sigma=1  
M25 ( net368 VDD VDD VDD ) pch_mac l=100n w=wp*fingers_cs multi=1 nf=fingers_cs sigma=1  
M32 ( net368 CP VDD VDD ) pch_mac l=100n w=wp*fingers_cs multi=16 nf=fingers_cs sigma=1  
M27 ( VDD VDD VDD VDD ) pch_mac l=100n w=wp*fingers_cs multi=6 nf=fingers_cs sigma=1  
M39 ( net367 VSS VSS VSS ) nch_mac l=100n w=wn*fingers_cs multi=1 nf=fingers_cs sigma=1  
M37 ( net367 EX\<4\> VSS VSS ) nch_mac l=200n w=wn*fingers_cs multi=2 nf=fingers_cs sigma=1  
M36 ( net369 CN net367 VSS ) nch_mac l=100n w=wn*fingers_cs multi=1 nf=fingers_cs sigma=1  
M42 ( net369 VSS VSS VSS ) nch_mac l=100n w=wn*fingers_cs multi=1 nf=fingers_cs sigma=1  
M35 ( net369 CN VSS VSS ) nch_mac l=100n w=wn*fingers_cs multi=16 nf=fingers_cs sigma=1  
ends Delay_Unit_Parameterized 
subckt INVD2LVT I ZN VDD VSS 
MU1_0\-M_u2 ( ZN I VSS VSS ) nch_lvt l=60n w=390.0n nf=1  
MU1_1\-M_u2 ( ZN I VSS VSS ) nch_lvt l=60n w=390.0n nf=1  
MU1_0\-M_u3 ( ZN I VDD VDD ) pch_lvt l=60n w=520.0n nf=1  
MU1_1\-M_u3 ( ZN I VDD VDD ) pch_lvt l=60n w=520.0n nf=1  
ends INVD2LVT 
V3 ( net2 0 ) vsource type=pulse val0=0 val1=VDD period=1/Fs delay=-250p rise=10p fall=10p width=0.5/Fs  
M0 ( CP CP VDD VDD ) pch_mac l=100n w=800n multi=8 nf=1 sigma=1  
C0 ( net015 0 ) capacitor c=CL  
I19 ( CN CP EN1\<1\> EN1\<2\> EN1\<3\> EN1\<4\> EX1\<1\> EX1\<2\> EX1\<3\> EX1\<4\> VI net015 VDD VSS ) Delay_Unit_Parameterized  
M26 ( CP CN VSS VSS ) nch_mac l=100n w=800n multi=4 nf=1 sigma=1  
R0 ( VCTRL CN ) resistor r=0  
R1 ( net2 VI ) resistor r=1K  
I74 ( EN1\<4\> EX1\<4\> VDD VSS ) INVD2LVT  
I14 ( EN1\<3\> EX1\<3\> VDD VSS ) INVD2LVT  
I12 ( EN1\<2\> EX1\<2\> VDD VSS ) INVD2LVT  
I10 ( EN1\<1\> EX1\<1\> VDD VSS ) INVD2LVT  
I7 ( ENB1\<4\> EN1\<4\> VDD VSS ) INVD2LVT  
I13 ( ENB1\<3\> EN1\<3\> VDD VSS ) INVD2LVT  
I11 ( ENB1\<2\> EN1\<2\> VDD VSS ) INVD2LVT  
I9 ( ENB1\<1\> EN1\<1\> VDD VSS ) INVD2LVT  
V7 ( ENB1\<4\> 0 ) vsource dc=V_cap_control type=dc  
V6 ( ENB1\<3\> 0 ) vsource dc=V_cap_control type=dc  
V5 ( ENB1\<2\> 0 ) vsource dc=V_cap_control type=dc  
V4 ( ENB1\<1\> 0 ) vsource dc=V_cap_control type=dc  
V2 ( VSS 0 ) vsource dc=0 type=dc  
V0 ( VCTRL 0 ) vsource dc=VCTRL type=dc  
V1 ( VDD 0 ) vsource dc=VDD type=dc  
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf colonasdelimiter=none 
tran tran stop=20n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
